US05554607
3-(4-Fluorophenyl)-1-isopropyl-2-thioxo-imidazolidin-4-one
The title compound was prepared by the procedure described in Example 45 using 15.3 g of 4-fluorophenyl-isothiocyanate,. 21.2 g of N-isopropyl glycine, 21.0 g of triethyl amine, and 300 mL of chloroform. Crystallization from ethanol afforded the title compound (12.6 g) as a peach solid, m.p. 184°-186° C. Anal. Calcd. for. C12H13F N2O S: C, 57.12; H, 5.19; N, 11.10. Found: C, 56.98; H, 5.09; N, 11.06. Mass spectrum (+FAB, [M+H]+) m/z 253.

reactant | 4-fluorophenyl-isothiocyanate | 15.3 g | FC1=CC=C(C=C1)N=C=S | C7H4FNS
reactant | N-isopropyl glycine | 21.2 g | C(C)(C)NCC(=O)O | C5H11NO2
reactant | triethyl amine | 21.0 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 300 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-(4-Fluorophenyl)-1-isopropyl-2-thioxo-imidazolidin-4-one | 12.6 g | FC1=CC=C(C=C1)N1C(N(CC1=O)C(C)C)=S | C12H13FN2OS
